US04260774
1.258 g of 5-carbamoyl-1H-imidazol-4-yl p-methylthiobenzoate was synthesized from 0.636 g of 4-carbamoylimidazolium-5 olate and 1.4 g of p-methylthiobenzoyl chloride.

reactant | 4-carbamoylimidazolium-5 olate | 0.636 g | C(N)(=O)C=1NC=[NH+]C1[O-] | C4H5N3O2
reactant | p-methylthiobenzoyl chloride | 1.4 g | CC1=CC=C(C(=S)Cl)C=C1 | C8H7ClS
product | 5-carbamoyl-1H-imidazol-4-yl p-methylthiobenzoate | 1.258 g | CC1=CC=C(C(=S)OC=2N=CNC2C(N)=O)C=C1 | C12H11N3O2S
